Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
latex
 
Attending: ___
 
Chief Complaint:
right-sided leg pain
 
Major Surgical or Invasive Procedure:
___ R L5 foraminotomy, R L4-L5 microdiscectomy 

 
History of Present Illness:
___ female with progressive right sided leg pain had a 
MRI demonstrating foraminal narrowing along the right L5 nerve 
root.  The patient had a 50% response to the selective nerve 
root block but was still in significant pain. An EMG localized 
to the L5 nerve root as well.  She presented for an elective 
L4-5 microdiscectomy and right L5 foraminotomy.

 
Past Medical History:
asthma, Diabetes Mellitis, lumbar stenosis
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRLA

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [ ]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:

IPQuadHamATEHLGast
Right5         5     5         5     5          5
Left5         5     5         5     5          5

[ ]Clonus [ ___ [x]Sensation intact to light touch
[x]Propioception intact

Wound: 
          [x]Clean, dry, intact 
 
Pertinent Results:
Please see OMR for pertinent results
 
Brief Hospital Course:
# Lumar stenosis
The patient was taken to the OR on the day of admission on ___ 
for a microdiskectomy and foraminotomy. The case was 
uncomplicated; please see OMR for details about the case. Post 
operatively, the patient recovered in the PACU prior to transfer 
to the floor. Throughout her admission, patient pain was well 
controlled. She remained neurovascularly intact throughout her 
admission, and stated that her R leg tingling prior to surgery 
had resolved completely. She was ambulating, tolerating a 
regular diet, and voiding independently on the day of discharge. 

 
Medications on Admission:
gabapentin 600 mg tablet TID
metformin ER 750 mg tablet,extended release q24 hr
oxycodone 5 mg tablet TID, prn
Acetaminophen, 325mg TID prn
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every four (4) 
hours Disp #*15 Tablet Refills:*0 
3.  Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 1 (One) by mouth once a day Disp 
#*15 Tablet Refills:*0 
4.  Gabapentin 600 mg PO TID  
5.  metformin ER 750 mg tablet, extended release q24 hr

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery
•Your incision is closed with absorbable sutures. These will 
absorb fully in the upcoming weeks. Please keep your incision 
dry.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___